US04315933
A mixture of 11.6 g (50 mmol) of 2-(4-aminophenyl)-4-hydroxy-5-pyrimidine carboxylic acid, 200 ml glacial acetic acid, and 10.5 ml (110 mmol) of acetic anhydride is heated at reflux for 4 hrs. The mixture is cooled, filtered, and the solid washed with ether and dried under vacuum at 50° to give 13.3 g of 2-[4-(acetylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid; mp>310°.

reactant | 2-(4-aminophenyl)-4-hydroxy-5-pyrimidine carboxylic acid | 50 mmol, 11.6 g | NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O | C11H9N3O3
reactant | acetic anhydride | 110 mmol, 10.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2-[4-(acetylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid | 13.3 g | C(C)(=O)NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O | C13H11N3O4
